US07524860B2
1-(5-Butyryl-7-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-3-ethyl-urea, which may be produced as in Example 108 (46.0 mg, 0.13 mmol) and O-methylhydroxylamine HCl (18.0 mg, 0.22 mmol) in ethanol (1.0 mL) were charged with sodium acetate trihydrate (55.0 mg, 0.41 mmol). After 24 h the reaction was concentrated then taken up in ethyl acetate and washed with saturated sodium bicarbonate. The organic was concentrated and the resulting oil chromatographed (0-10% isopropanol/CH2Cl2) to afford 1-ethyl-3-[5-(1-methoxyimino-butyl)-7-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridine-2-yl]-urea. MS (APCI+): m/z 382.3 (M+H).

reactant | 1-(5-Butyryl-7-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-3-ethyl-urea | C(CCC)(=O)C1=CC(=CC=2N1N=C(N2)NC(=O)NCC)C=2C=NC=CC2 | C18H20N6O2
reactant | O-methylhydroxylamine HCl | 0.22 mmol, 18.0 mg | Cl.CON
reactant | sodium acetate trihydrate | 0.41 mmol, 55.0 mg | O.O.O.C(C)(=O)[O-].[Na+]
solvent | ethanol | 1.0 mL | C(C)O | C2H6O
product | 1-ethyl-3-[5-(1-methoxyimino-butyl)-7-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridine-2-yl]-urea | C(C)NC(=O)NC1=NN2C(C=C(C=C2C(CCC)=NOC)C=2C=NC=CC2)=N1 | C19H23N7O2
